US04529557
16 g (0.042 mol) of ethyl 3-(3-bromo-4-trifluoromethoxyphenyl)-2,2-dimethyl-cyclopropanecarboxylate were dissolved in 50 ml of ethanol, a solution of 3.4 g (0.085 mol) of sodium hydroxide in 50 ml of water was then added, and the mixture was heated under reflux for 4 hours, while stirring. The ethanol was then distilled off in the vacuum from a water jet, the residue was taken up in 300 ml of water, and the solution was extracted once with 300 ml of methylene chloride. The aqueous phase was separated off, acidified with concentrated hydrochloric acid and then extracted twice with 300 ml of methylene chloride. The organic phase was then separated off and dried over magnesium sulphate, and the solvent was distilled off in the vacuum from a water jet. The last residues of solvent were removed by incipient distillation for a short time, at a bath temperature of 50° C./2 mm Hg. 9.8 g (66.3% of theory) of (±)cis/trans-3-(3-bromo-4-trifluoromethoxyphenyl)- 2,2-dimethyl-cyclopropanecarboxylic acid were then obtained as a yellow viscous oil. The structure was confirmed by the 1H-NMR spectrum.

reactant | ethyl 3-(3-bromo-4-trifluoromethoxyphenyl)-2,2-dimethyl-cyclopropanecarboxylate | 0.042 mol, 16 g | BrC=1C=C(C=CC1OC(F)(F)F)C1C(C1C(=O)OCC)(C)C | C15H16BrF3O3
reactant | sodium hydroxide | 0.085 mol, 3.4 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | trans-3-(3-bromo-4-trifluoromethoxyphenyl)- 2,2-dimethyl-cyclopropanecarboxylic acid | BrC=1C=C(C=CC1OC(F)(F)F)[C@@H]1C([C@H]1C(=O)O)(C)C | C13H12BrF3O3
